US09388189B2
b) N,N-Dimethyl-3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
3-Iodo-N,N-dimethyl-5-nitroaniline (380 mg, 1.3 mmol) was dissolved in 8 ml DMF. Bis(pinacolato)diboron (496 mg, 1.95 mmol) and potassium acetate (638 mg, 6.5 mmol) were added and the mixture was submitted to three vacuum-argon cycles. Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.11 g, 0.16 mmol) was added under argon conditions. The mixture was then stirred at 100° C. for 30 min. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 10%, dichloromethane-methanol) to obtain 356 mg (94% yield) of the title compound as a brown solid. Purity 100%.

reactant | 3-Iodo-N,N-dimethyl-5-nitroaniline | 1.3 mmol, 380 mg | IC=1C=C(N(C)C)C=C(C1)[N+](=O)[O-] | C8H9IN2O2
reactant | Bis(pinacolato)diboron | 1.95 mmol, 496 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.5 mmol, 638 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | N,N-Dimethyl-3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 356 mg, 94% yield | CN(C1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-])C | C14H21BN2O4
